US09119396B2
A mixture of 10.0 g of methyl 5-(trifluoromethyl)benzo[b]thiophene-2-carboxylate, 1.80 g of lithium hydroxide monohydrate, 30 ml of water and 90 ml of methanol was stirred at 75° C. for 1 hour. The reaction mixture was cooled to room temperature and then concentrated under reduced pressure. To the obtained residue was added water, and washed with tert-butyl methyl ether 3 times. To the aqueous layer was added concentrated hydrochloric acid, and then extracted with tert-butyl methyl ether 3 times. The combined organic layer was washed with saturated aqueous sodium chloride solution, dried over magnesium sulfate, and then concentrated under reduced pressure to obtain 9.10 g of 5-(trifluoromethyl)benzo[b]thiophene-2-carboxylic acid.

reactant | methyl 5-(trifluoromethyl)benzo[b]thiophene-2-carboxylate | 10.0 g | FC(C1=CC2=C(SC(=C2)C(=O)OC)C=C1)(F)F | C11H7F3O2S
reactant | lithium hydroxide monohydrate | 1.80 g | O.[OH-].[Li+]
reactant | water | 30 ml | O | H2O
solvent | methanol | 90 ml | CO | CH4O
product | 5-(trifluoromethyl)benzo[b]thiophene-2-carboxylic acid | 9.10 g | FC(C1=CC2=C(SC(=C2)C(=O)O)C=C1)(F)F | C10H5F3O2S
